US05663053
Methyl 4-[4-(2,4,5 triphenylimidazolyl]butyloxy)-benzoate (1.5 g) was dissolved in methanol (50 ml) and treated with 10% potassium hydroxide solution (15 ml) for 0.5 hours. The methanol was removed under reduced pressure and the remaining aqueous was acidified (pH4) and the pre-cipitate was collected by filtration and recrystallised from methanol to give 4-[4-(2,4,5-triphenylimidazolyl)-butyloxy]-benzoic acid (1.3 g) as white prisms m.p. 202°-203° C.; Found: C, 78.79; H, 5.75; N, 5.81% (C32H28N2O3);Requires: C, 78.66; H, 5.78; N, 5.73%

reactant | Methyl 4-[4-(2,4,5 triphenylimidazolyl]butyloxy)-benzoate | 1.5 g | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCOC1=CC=C(C(=O)OC)C=C1 | C33H30N2O3
reactant | potassium hydroxide | 15 ml | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-[4-(2,4,5-triphenylimidazolyl)-butyloxy]-benzoic acid | 1.3 g | C1(=CC=CC=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCOC1=CC=C(C(=O)O)C=C1 | C32H28N2O3
